US08808703B2
To a solution of (S)-1-(tert-butyldimethylsilyloxy)-3-(hexadecyloxy)propan-2-ol (1 eq) in pyridine (0.5 M) at 0° C., was added MsCl (2 eq). The reaction was stirred at 0° C. for 1 h and quenched by H2O. The aqueous phase was extracted with DCM. The combined organic phases were washed with H2O, and the aqueous phase was back extracted with DCM. The combined organic phases were washed with saturated NaHCO3 and brine, dried over anhydrous Na2SO4 and concentrated en vaccuo. The resulting crude was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-15% EtOAc/Hex to give (S)-1-(tert-butyldimethylsilyloxy)-3-(hexadecyloxy)propan-2-yl methanesulfonate as a colorless oil.

reactant | (S)-1-(tert-butyldimethylsilyloxy)-3-(hexadecyloxy)propan-2-ol | 1 eq | [Si](C)(C)(C(C)(C)C)OC[C@H](COCCCCCCCCCCCCCCCC)O | C25H54O3Si
reactant | MsCl | 2 eq | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 0.5 M | N1=CC=CC=C1 | C5H5N
product | (S)-1-(tert-butyldimethylsilyloxy)-3-(hexadecyloxy)propan-2-yl methanesulfonate | CS(=O)(=O)O[C@H](CO[Si](C)(C)C(C)(C)C)COCCCCCCCCCCCCCCCC | C26H56O5SSi
